US07745484B2
7-Hydroxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one (0.95 g, 4.99 mmol) was dissolved in 30 ml DCMand triphenylphosphine (1.96 g, 7.49 mmol) and diisopropyl azodicarboxylate (1.23 ml, 6.24 mmol) and (r)-(−)-3-hydroxytetrahydrofuran (0.600 ml, 7.49 mmol) was added. The mixture was stirred over night. 0.5M HCl (aq.) was added and the mixture was extracted 3 times with EtOAc. Glass col. Chrom. (5-30% EtOAc in Hex.) provided (S)-3,3-dimethyl-7-(tetrahydrofuran-3-yloxy)-3,4-dihydronaphthalen-1(2H)-one as a yellow oil. MS m/z: 261.1 (M+1).

reactant | 7-Hydroxy-3,3-dimethyl-3,4-dihydronaphthalen-1(2H)-one | 4.99 mmol, 0.95 g | OC1=CC=C2CC(CC(C2=C1)=O)(C)C | C12H14O2
reactant | triphenylphosphine | 7.49 mmol, 1.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 6.24 mmol, 1.23 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (r)-(−)-3-hydroxytetrahydrofuran | 7.49 mmol, 0.600 ml | O[C@H]1COCC1 | C4H8O2
reactant | HCl | 0.5M | Cl | ClH
product | (S)-3,3-dimethyl-7-(tetrahydrofuran-3-yloxy)-3,4-dihydronaphthalen-1(2H)-one | CC1(CC(C2=CC(=CC=C2C1)O[C@@H]1COCC1)=O)C | C16H20O3
